US09062032B2
By using 340 mg of 2-[(3-{[cyclopropyl(piperidin-4-yl)amino]methyl}benzoyl)amino]-N-[4-(diethylamino)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide and 99 mg of ethyl bromoacetate, a reaction was performed under the conditions similar to Preparation Example 30, thereby obtaining 310 mg of ethyl[4-(cyclopropyl {3-[(3-{[4-(diethylamino)phenyl]carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl)carbamoyl]benzyl}amino)piperidin-1-yl]acetate.

reactant | 2-[(3-{[cyclopropyl(piperidin-4-yl)amino]methyl}benzoyl)amino]-N-[4-(diethylamino)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 340 mg | C1(CC1)N(C1CCNCC1)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)N(CC)CC)CCCC3)C=CC1 | C35H45N5O2S
reactant | ethyl bromoacetate | 99 mg | BrCC(=O)OCC | C4H7BrO2
product | ethyl[4-(cyclopropyl {3-[(3-{[4-(diethylamino)phenyl]carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl)carbamoyl]benzyl}amino)piperidin-1-yl]acetate | 310 mg | C(C)OC(CN1CCC(CC1)N(CC1=CC(=CC=C1)C(NC=1SC2=C(C1C(NC1=CC=C(C=C1)N(CC)CC)=O)CCCC2)=O)C2CC2)=O | C39H51N5O4S
